US07320993B1
N-[4-(4,5-diphenyl-imidazol-1-yl)-butyl]-3-pyridin-3-yl-acrylamide (Substance 63)
Batch size: 2.5 g (17.0 mmol) 3-(3-pyridyl)-acrylic acid, 5.9 g (46.3 mmol) oxalyl chloride and 4.5 g (15.4 mmol) 4-(4,5-diphenyl-imidazol-1-yl)-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 17.0 mmol, 2.5 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 46.3 mmol, 5.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4,5-diphenyl-imidazol-1-yl)-butylamine | 15.4 mmol, 4.5 g | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=CC=C1)CCCCN | C19H21N3
product | N-[4-(4,5-diphenyl-imidazol-1-yl)-butyl]-3-pyridin-3-yl-acrylamide | C1(=CC=CC=C1)C=1N=CN(C1C1=CC=CC=C1)CCCCNC(C=CC=1C=NC=CC1)=O | C27H26N4O
